US07709649B2
To a suspension of 6-chloro-5-methoxynicotinic acid (0.54 g, 2.9 mmol) in THF (5 mL) at 25° C. was added borane (1.0 M in THF, 5.8 mL, 5.8 mmol) dropwise. The mixture was let stir for 5 h, after which TLC showed complete conversion. The reaction was quenched with 2 M HCl until bubbling subsided and mixture extracted with dichloromethane (3×). The combined organic layers were dried over MgSO4 and concentrated to furnish the product (6-chloro-5-methoxypyridin-3-yl)methanol as a white solid (0.49 mg (97%); mp 60-63° C.; 1H NMR (400 MHz, CDCl3) δ 7.95 (d, 1H), 7.30 (d, 1H), 4.74 (s, 2H), 3.94 (s, 3H): LC-MS (ELSD): Exact mass calcd for C7H8ClNO2 [M]+, 173. Found 173.

reactant | 6-chloro-5-methoxynicotinic acid | 2.9 mmol, 0.54 g | ClC1=NC=C(C(=O)O)C=C1OC | C7H6ClNO3
reactant | borane | 5.8 mmol, 1.0 M, 5.8 mL | B | BH3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (6-chloro-5-methoxypyridin-3-yl)methanol | ClC1=C(C=C(C=N1)CO)OC | C7H8ClNO2
